US04343811
2-[2-(4-Acetamido-phenyl)-3-methyl-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester
One gram (2.53 m mole) of 2-[2-(4-amino-phenyl)-3-methyl-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester and 0.25 g (2.5 m mole) of triethylamine were dissolved in 15 ml of chloroform and 0.2 g (2.55 m mole) of acetyl chloride were added dropwise while ice-cooling. After a few hours at room temperature the reaction mixture was mixed with water and extracted with chloroform. The chloroform extracts were dried and evaporated, and the residue was purified by chromatography on silicagel (solvent: toluene/acetone (5:1)).

reactant | 2-[2-(4-amino-phenyl)-3-methyl-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | One gram | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C1=CC=C(C=C1)N)C)=O | C24H30N2O3
reactant | triethylamine | 0.25 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.2 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(4-Acetamido-phenyl)-3-methyl-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C1=CC=C(C=C1)NC(C)=O)C)=O | C26H32N2O4
